US03962445
A suspension of 6-chloro-4-hydroxycarbostyril (1.82g; 0.0093 mole) in glacial acetic acid (10 ml) was shaken with concentrated nitric acid (2.5 ml; d, 1.42) and the mixture heated on a water bath at 100°C until a clear solution resulted. Cooling of the orange solution gave a bright yellow solid which was filtered, washed well with acetic acid and then ethanol. Drying in vacuo over P2O5NaOH gave analytically pure 6-chloro-4-hydroxy-3-nitrocarbostyril: decomposes 200°C. (Found: C, 45.31; H, 2.31 N, 11.93; Cl, 14.78; C9H5N2CIO4 requires; C, 44.93; H, 2.09; N, 11.64 Cl, 14.74%).

reactant | 6-chloro-4-hydroxycarbostyril | 0.0093 mole, 1.82g | ClC=1C=C2C(=CC(NC2=CC1)=O)O | C9H6ClNO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-4-hydroxy-3-nitrocarbostyril | ClC=1C=C2C(=C(C(NC2=CC1)=O)[N+](=O)[O-])O | C9H5ClN2O4
